US03984467
1-[2-(Benzyloxy)phenyl]-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 2.9 g. sodium in 300 ml. dry acetone, 17.7 g. valeramidine hydrochloride, and 29.3 g. 2-(benzyloxy)phenyl isocyanate in 200 ml. dry acetone, there was obtained after recrystallization from isopropyl alcohol 33.9 g. of the hydrochloride of 1-[2-(benzyloxy)phenyl]-3-(pentanimidoyl)urea; m.p. 145°-147°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 2-(benzyloxy)phenyl isocyanate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)N=C=O | C14H11NO2
solvent | acetone | CC(=O)C | C3H6O
product | 1-[2-(Benzyloxy)phenyl]-3-(pentanimidoyl)urea | C(C1=CC=CC=C1)OC1=C(C=CC=C1)NC(=O)NC(CCCC)=N | C19H23N3O2
